US04001003
A solution of thionyl chloride (72 parts) in methylene chloride (270 parts) was added dropwise over a period of 30 minutes to a mixture of 2,3-dihydro-2-hydroxy-3,3-dimethyl-5-benzofuranyl methanesulphonate (130 parts) and pyridine (48 parts) in methylene chloride (1,300 parts) cooled in an ice bath. After stirring for three hours, the solution was washed twice with water, dried over sodium sulphate and the solvent distilled off under reduced pressure. The brown liquid which remained solidified to form 2-chloro-2,3-dihydro-3,3-dimethyl-5-benzofuranyl methanesulphonate (135 parts, 97% yield), melting point 59°-61° C, confirmed by its elemental analysis:

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2,3-dihydro-2-hydroxy-3,3-dimethyl-5-benzofuranyl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H14O5S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-2,3-dihydro-3,3-dimethyl-5-benzofuranyl methanesulphonate | 97% yield | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)Cl)(C)C)C1 | C11H13ClO4S
